US05846661
ethylene/vinyl acetate/maleic anhydride copolymers;
the above two copolymers in which the maleic anhydride is replaced by glycidyl methacrylate,

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | glycidyl methacrylate | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
product | ethylene/vinyl acetate maleic anhydride | C=C.C(C)(=O)OC=C.C1(\C=C/C(=O)O1)=O | InChI=1S/C4H2O3.C4H6O2.C2H4/c5-3-1-2-4(6)7-3;1-3-6-4(2)5;1-2/h1-2H;3H,1H2,2H3;1-2H2
